US07371743B2
(b) ethyl (2S)-2-(benzyloxycarbonyl-amino)-4-(1H-tetrazol-5-yl)-butyrate
3.20 g (11.0 mmol) ethyl (2S)-2-(benzyloxycarbonyl-amino)-4-cyano-butyrate are dissolved in 40 ml of toluene and 1.08 g (16.5 mmol) sodium azide and 2.28 g (16.5 mmol) triethylamine-hydrochloride are added. The reaction mixture is heated to 85° C. for 24 hours, cooled to ambient temperature and extracted with water. The combined aqueous phases are acidified to pH 2 with semiconc. hydrochloric acid, the resulting precipitate is suction filtered, washed with water and dried at 50° C.

reactant | ethyl (2S)-2-(benzyloxycarbonyl-amino)-4-cyano-butyrate | 11.0 mmol, 3.20 g | C(C1=CC=CC=C1)OC(=O)N[C@H](C(=O)OCC)CCC#N | C15H18N2O4
reactant | sodium azide | 16.5 mmol, 1.08 g | [N-]=[N+]=[N-].[Na+]
reactant | triethylamine-hydrochloride | 16.5 mmol, 2.28 g | Cl.C(C)N(CC)CC
solvent | toluene | 40 ml | C1(=CC=CC=C1)C | C7H8
product | ethyl (2S)-2-(benzyloxycarbonyl-amino)-4-(1H-tetrazol-5-yl)-butyrate | C(C1=CC=CC=C1)OC(=O)N[C@H](C(=O)OCC)CCC1=NN=NN1 | C15H19N5O4
